US07098219B2
1-Cyclopropyl-6-fluoro-8-methoxy-1,4-dihydro-7-(3′,3′-dimethyl-4′-L-valinylaminopiperidin-1-yl}-4-oxo-quinoline-3-carboxylic acid hydrochloride
1-Cyclopropyl-6-fluoro-8-methoxy-1,4-dihydro-7-{4′-(N-t-butoxycarbonyl-L-valyl)amino-3′,3′-dimethylpiperidin-1-yl)-4-oxo-quinoline-3-carboxylic acid (0.4 gm) is hydrolysed with 6N HCl (20 ml) at room temperature for 1 hr. The mixture concentrated to furnish the titled product. Yield 75%, m.p 150–55° C., C26H35FN4O5.HCl m/z 503 (M+1).

reactant | 1-Cyclopropyl-6-fluoro-8-methoxy-1,4-dihydro-7-{4′-(N-t-butoxycarbonyl-L-valyl)amino-3′,3′-dimethylpiperidin-1-yl)-4-oxo-quinoline-3-carboxylic acid | 0.4 gm | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)OC)N1CC(C(CC1)NC([C@@H](NC(=O)OC(C)(C)C)C(C)C)=O)(C)C)F)=O)C(=O)O | C31H43FN4O7
reactant | HCl | 6N, 20 ml | Cl | ClH
product | 1-Cyclopropyl-6-fluoro-8-methoxy-1,4-dihydro-7-(3′,3′-dimethyl-4′-L-valinylaminopiperidin-1-yl}-4-oxo-quinoline-3-carboxylic acid hydrochloride | Yield 75% | Cl.C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)OC)N1CC(C(CC1)NC([C@@H](N)C(C)C)=O)(C)C)F)=O)C(=O)O | InChI=1S/C26H35FN4O5.ClH/c1-13(2)19(28)24(33)29-18-8-9-30(12-26(18,3)4)21-17(27)10-15-20(23(21)36-5)31(14-6-7-14)11-16(22(15)32)25(34)35;/h10-11,13-14,18-19H,6-9,12,28H2,1-5H3,(H,29,33)(H,34,35);1H/t18?,19-;/m0./s1
